US05859012
Preparation of N-Methoxy-N-methyl 2(S)-(tert-butoxycarbonylamino)-3-phenylpropionamide
2(S)-(tert-Butoxycarbonylamino)-3-phenylpropionic acid (39.80 g, 0.150 mol), N,O-dimethylhydroxylamine hydrochloride (21.95 g, 0.225 mol), EDC hydrochloride (31.52 g, 0.165 mol) and HOBT (20.25 g, 0.150 mol) were stirred in dry, degassed DMF (200 mL) at 20° C. under nitrogen. N-Methylmorpholine is added to obtain pH 7. The reaction was stirred overnight, the DMF distilled under high vacuum, and the residue partitioned between ethyl acetate and 2% potassium hydrogen sulfate. The organic phase was washed with saturated sodium bicarbonate, water, and saturated brine, and dried with magnesium sulfate. The solvent was removed in vacuo to give the title compound.

reactant | 2(S)-(tert-Butoxycarbonylamino)-3-phenylpropionic acid | 0.150 mol, 39.80 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC=CC=C1 | C14H19NO4
reactant | N,O-dimethylhydroxylamine hydrochloride | 0.225 mol, 21.95 g | Cl.CNOC
reactant | EDC hydrochloride | 0.165 mol, 31.52 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 0.150 mol, 20.25 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
product | N-Methoxy-N-methyl 2(S)-(tert-butoxycarbonylamino)-3-phenylpropionamide | CON(C([C@H](CC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O)C | C16H24N2O4
